US09193714B2
(3R)-3-(fluoromethyl)-1-((2S)-1-(4-(4-methyl-6-((tetrahydro-2H-pyran-2-yl)oxy)-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-2H-chromen-2-yl)phenoxy)propan-2-yl)pyrrolidine (785 mg, 1.19 mmol) was stirred in 80% acetic acid/H2O (6.0 mL) at room temperature for 2 days. The solvents were removed on a rotary evaporator, and the residue was dissolved in ethyl acetate. The organic layer was washed with sat'd aqueous NaHCO3, washed with water, washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. This crude material was then purified by silica gel chromatography (0-4% MeOH/DCM) to afford 2-(4-((S)-2-((R)-3-(fluoromethyl)pyrrolidin-1-yl)propoxy)phenyl)-3-(3-hydroxyphenyl)-4-methyl-2H-chromen-6-ol (410 mg, 70%) as pale pink solid. 1H NMR (DMSO-d6): δ 9.43 (s, 1H), 8.94 (s, 1H), 7.18 (d, 2H), 7.12 (t, 1H), 6.79 (d, 2H), 6.73 (m, 1H), 6.68 (dt, 1H), 6.65 (m, 1H), 6.61 (m, 1H), 6.49-6.45 (m, 2H), 5.83 (s, 1H), 4.35-4.30 (m, 1H), 4.23-4.18 (m, 1H), 3.99-3.93 (m, 1H), 3.74-3.70 (m, 1H), 2.69-2.60 (m, 2H), 2.58-2.52 (m, 2H), 2.45-2.32 (m, 2H), 2.02 (s, 3H), 1.82-1.75 (m, 1H), 1.36-1.30 (m, 1H), 1.07 (d, 3H); LCMS: 490.2 (M+H)+.

reactant | (3R)-3-(fluoromethyl)-1-((2S)-1-(4-(4-methyl-6-((tetrahydro-2H-pyran-2-yl)oxy)-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-2H-chromen-2-yl)phenoxy)propan-2-yl)pyrrolidine | 1.19 mmol, 785 mg | FC[C@H]1CN(CC1)[C@H](COC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(=C1C1=CC(=CC=C1)OC1OCCCC1)C)OC1OCCCC1)C | C40H48FNO6
solvent | acetic acid H2O | 6.0 mL | C(C)(=O)O.O
product | 2-(4-((S)-2-((R)-3-(fluoromethyl)pyrrolidin-1-yl)propoxy)phenyl)-3-(3-hydroxyphenyl)-4-methyl-2H-chromen-6-ol | 410 mg, 70% | FC[C@H]1CN(CC1)[C@H](COC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(=C1C1=CC(=CC=C1)O)C)O)C | C30H32FNO4
